US06756378B2
To a solution of ethyl 3-fluoro-4-piperidinylacetate (230 mg, 1.22 mmol) and 2-(N-tert-butoxy carbonyl-N-methylamino)acetaldehyde (211 mg, 1.22 mmol) in THF (5 mL) was added NaBH(OAc)3 (386 mg, 1.82 mmol) and acetic acid (70.0 mL, 1.22 mmol) at room temperature After being sired for 24 hr, the reaction mixture was quenched by the addition of sat. NaHCO3 solution and extracted with EtOAc. The extracts were washed with brine, dried over Na2CO3, and concentrated to dryness. Chromatography of the residue with CHCl3—MeOH (6:1, v/v) as eluent gave ethyl 3-fluoro-1-[2-(N-tert-butoxycarbonyl-N-methylamino)ethyl]-4-piperidinylacetate (236 mg, 56%) as a reddish oil. 1H-NMR (CDCl3) δ1.25 (t, J=7.1 Hz, 3H), 1.45 (s, 9H), 1.53 1.79 (m, 2H), 1.90-2.09 (m, 2H), 2.15 (dd, J=16.4, 7.1 Hz, 1H), 2.45-2.58 (m, 2H), 2.87 (s, 3H), 2.90-2.99 (m, 2H), 3.20 (m, 1H), 3.24-3.45 (m, 2H), 4.14 (q, J=7.1 Hz, 2H), 4.61, 4.73 (each broad s, 1H); ESI-MS m/z 347.

reactant | ethyl 3-fluoro-4-piperidinylacetate | 1.22 mmol, 230 mg | FC1CNCCC1CC(=O)OCC | C9H16FNO2
reactant | 2-(N-tert-butoxy carbonyl-N-methylamino)acetaldehyde | 1.22 mmol, 211 mg | C(C)(C)(C)OC(=O)N(C)CC=O | C8H15NO3
reactant | NaBH(OAc)3 | 1.82 mmol, 386 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 1.22 mmol, 70.0 mL | C(C)(=O)O | C2H4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 3-fluoro-1-[2-(N-tert-butoxycarbonyl-N-methylamino)ethyl]-4-piperidinylacetate | 236 mg, 56% | FC1CN(CCC1CC(=O)OCC)CCN(C)C(=O)OC(C)(C)C | C17H31FN2O4
